US09388185B2
Step 1. 6-Bromo-2-(2-fluoro-3,5-dimethoxyphenethyl)-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine
A mixture of 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (25.0 mg, 0.0498 mmol) and 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane ditetrafluoroborate (17.6 mg, 0.0498 mmol) in acetonitrile (0.3 mL)/water (0.06 mL) was stirred at 50° C. overnight. The solvent was removed and the residue was used in the next step w/o purification. LCMS calculated for C22H20BrFN3O4S (M+H)+: m/z=520.0. Found 520.0.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 0.0498 mmol, 25.0 mg | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1S(=O)(=O)C1=CC=CC=C1 | C22H20BrN3O4S
reactant | 1-(chloromethyl)-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane ditetrafluoroborate | 0.0498 mmol, 17.6 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | water | 0.06 mL | O | H2O
solvent | acetonitrile | 0.3 mL | C(C)#N | C2H3N
product | 6-Bromo-2-(2-fluoro-3,5-dimethoxyphenethyl)-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=C(C(=CC(=C2)OC)OC)F)N1S(=O)(=O)C1=CC=CC=C1 | C22H19BrFN3O4S
